US04102888
Step C. Preparation of 7-{2-[2-(1-Hydroxycyclohexyl)ethyl]4-oxo-3-thiazolidinyl}heptanoic Acid
This compound is prepared essentially by the method as described in Example 1, Step B, except that the methyl 7-[2-(3-acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoate is replaced by methyl 7-{2-[2-(1-acetyloxycyclohexyl)ethyl]-4-oxo-3-thiazolidinyl}heptanoate. Chromatographic purification of the resulting product on silica gel affords the title compound as a pale yellow, viscous oil.

reactant | methyl 7-[2-(3-acetyloxyoctyl)-4-oxo-3-thiazolidinyl]heptanoate | C(C)(=O)OC(CCC1SCC(N1CCCCCCC(=O)OC)=O)CCCCC | C21H37NO5S
reactant | methyl 7-{2-[2-(1-acetyloxycyclohexyl)ethyl]-4-oxo-3-thiazolidinyl}heptanoate | C(C)(=O)OC1(CCCCC1)CCC1SCC(N1CCCCCCC(=O)OC)=O | C21H35NO5S
product | 7-{2-[2-(1-Hydroxycyclohexyl)ethyl]4-oxo-3-thiazolidinyl}heptanoic Acid | OC1(CCCCC1)CCC1SCC(N1CCCCCCC(=O)O)=O | C18H31NO4S
